US09085578B2
A) 1-(1-cyclopropylethyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a mixture of 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile (20.0 g), triphenylphosphine (52.4 g), 1-cyclopropylethanol (19.34 mL) and tetrahydrofuran (500 mL) was added bis(2-methoxyethyl) azodicarboxylate (46.8 g) at 0° C. The reaction mixture was stirred at room temperature for 15 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in diethyl ether, and triphenylphosphine oxide (5 mg) was added thereto. The insoluble substance was removed by filtration. The filtrate was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, hexane/ethyl acetate) to give a crude product. The crude product was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.45 g).

reactant | 4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 20.0 g | COC1=C(C(NC=C1)=O)C#N | C7H6N2O2
reactant | triphenylphosphine | 52.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-cyclopropylethanol | 19.34 mL | C1(CC1)C(C)O | C5H10O
reactant | bis(2-methoxyethyl) azodicarboxylate | 46.8 g | N(=NC(=O)OCCOC)C(=O)OCCOC | C8H14N2O6
solvent | water | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 1-(1-cyclopropylethyl)-4-methoxy-2-oxo-1,2-dihydropyridine-3-carbonitrile | 2.45 g | C1(CC1)C(C)N1C(C(=C(C=C1)OC)C#N)=O | C12H14N2O2
